2164-04-18 01:27:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67W fevers yesterday along with greater bloody discharge from her
   enterocutaneous fistula and sent to ER from rehab. Seen recently twice
   in ER by surgery because of this issue.
   In ER her BP fell requiring IVF and levophed which has been stopped.
   She was given antibiotics and admitted. She has been seen by surgery.
   24 Hour Events:
                               History obtained from housestaff
   Allergies:
   Latex
   Rash;
   Oxaliplatin
   see ccc note;
   Iodine; Iodine Containing
   Rash;
   Fluconazole
   angioedema;
   Ace Inhibitors
   Rash; contraind
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   metast colon ca, receiving palliative chemo
   enterocut fistula
   E coli bacteremia [**2-22**]
   PE
   SVC syndrome
   DM, diet controlled
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2164-4-18**] 01:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 90 (90 - 96) bpm
   BP: 103/54(64) {90/43(55) - 116/54(67)} mmHg
   RR: 0 (0 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    512 mL
                  PO:
                  TF:
   IVF:
                                                                    512 mL
   Blood products:
   Total out:
                                                                  1,020 mL
                                                                      0 mL
   Urine:
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -508 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   330 K/uL
   111 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   21 mg/dL
   108 mEq/L
   136 mEq/L
   28.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2164-4-17**]  11:07 PM
   WBC
   8.5
   Hct
   28.8
   Plt
   330
   Cr
   0.6
   Glucose
   111
   Other labs: PT / PTT / INR:14.5/32.6/1.3, Differential-Neuts:77.2 %,
   Lymph:13.7 %, Mono:6.0 %, Eos:2.8 %, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.4 mg/dL
   Imaging: CXR large bilateral effusions
   ECG: ST 120, no ischemia
   Assessment and Plan
   fever, hypotension - improved with IVF, will continue boluses as
   needed, possible sites of infection include abdomen vs. lines vs.
   lungs. continue broad coverage as we await micro eval. abdominal CT
   tomorrow.
   metastatic colon ca - last chemo a few weeks ago
   pleural effusions - have been present for quite some time, do not
   suspect they are contributing to presentation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2164-4-17**] 08:49 PM
   Indwelling Port (PortaCath) - [**2164-4-17**] 08:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2164-04-19 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - BCx from [**4-16**] are positive: GNR, switched to Zosyn monotherapy
   - Rechecking lytes, cx, lactate
   - added back her home antidiarrheals
   - Onc team came by; they would like CT torso with contrast eventually
   to re-stage disease; ordered with desensitization protocol (pt allergic
   to iodine dye) for tmrw @ 1300.
   - In the AM, UPO dropped to 30/hr with pressures in 80
   History obtained from Patient
   Allergies:
   History obtained from PatientLatex
   Rash;
   Oxaliplatin
   see ccc note;
   Iodine; Iodine Containing
   Rash;
   Fluconazole
   angioedema;
   Ace Inhibitors
   Rash; contraind
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2164-4-18**] 02:58 AM
   Vancomycin - [**2164-4-18**] 08:00 AM
   Piperacillin - [**2164-4-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-4-18**] 10:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-4-19**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.9
C (98.4
   HR: 85 (81 - 103) bpm
   BP: 93/52(62) {84/35(53) - 114/73(81)} mmHg
   RR: 16 (10 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,092 mL
                                                                    150 mL
   PO:
             TF:
   IVF:
                                                                  1,092 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                  1,160 mL
   Urine:
                                                                  1,500 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,008 mL
                                                                 -1,010 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   334 K/uL
   9.5 g/dL
   142 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.4 mEq/L
   13 mg/dL
   105 mEq/L
   137 mEq/L
   29.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2164-4-17**]  11:07 PM
                             [**2164-4-18**]  05:06 AM
                             [**2164-4-18**]  10:02 AM
                             [**2164-4-18**]  03:59 PM
                             [**2164-4-19**]  04:43 AM
   WBC
   8.5
   7.9
   5.5
   Hct
   28.8
   27.5
   29.6
   29.9
   Plt
   [**Telephone/Fax (3) 12094**]
   Cr
   0.6
   0.2
   0.7
   0.8
   Glucose
   111
   91
   139
   142
   Other labs: PT / PTT / INR:14.5/32.6/1.3, Differential-Neuts:77.2 %,
   Lymph:13.7 %, Mono:6.0 %, Eos:2.8 %, Ca++:8.4 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
   67 year old female with metastatic colon cancer C33D8 5-FU/Leucovorin
   presenting with fever, hypotension and blood per enterocutaneous
   fistula.
   .
   # Hypotension: Baseline SBP in 95-105, was to 80s in ED and on arrival
   to ICU after 2 units of NS. Since admission, Pt is mentating well,
   strong peripheral pulses, voiding. DDx includes hypovolemia vs. sepsis.
   Hypovolemia is a possiblity given poor po intake (on TPN), ?blood loss
   from fistula site (less likely). Sepsis also possible - fever, elevated
   WBC in an immunocompromised host (see below) and GNR in blood.
   - IVF for MAP goal >60
   - Levophed if needed to maintain above
   - Foley for close output monitoring
   - Zosyn monotherapy for GNR --> [**4-16**] is D1. Today is day 3. Course for
   patient with indwelling line --> 2-3 weeks. D3/20
   - f/u bcx, ucx, sputum.  Follow up on speciation of blood cultures from
   rehab, which are GNR
   - Consider CT abd/pelvis today at 1pm with desensitization for: staging
   and r/u intrabdominal process
   - serial HCTs, transfuse for HCT < 21 or increased bleeding.
   .
   # Fever, leukocytosis: Potential sources include lines (PICC, port)
   though neither look infected, pulmonary (increased effusions on CXR),
   abdominal - fistula site vs. abscess vs. C. dif.
   - Zosyn, D3/20
   - f/u bcx, ucx, sputum.
   - CT abd/pelvis
   .
   # Bloody fistula drainage: Surgery following,
   - [**Hospital1 **] hematocrits
   - Ostomy/wound care consult following
   - NPO
   - Hold heparin, pneumoboots.
   .
   # Metastatic colon cancer: now followed by Dr. [**Last Name (STitle) 1862**] (heme/onc) and
   Dr. [**Last Name (STitle) **]
   - staging CT
   -restart anti-diarrheals
   .
   # H/O PE/SVC syndrome/port-related clots: Fondaparinux on hold due to
   recent bleeding.   Swelling of hands may indicate worsening process
   - consider restart fondaparinux
 defer to oncology in the setting of
   oozing fistula
   .
   # DM - Not on meds at home.
   - insulin s/s
   .
   PPX - boots, ppi
   CODE - full
   ICU Care
   Nutrition: nutritional consult
   Glycemic Control:
   Lines:
   PICC Line - [**2164-4-17**] 08:49 PM
   Indwelling Port (PortaCath) - [**2164-4-17**] 08:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2164-04-20 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - f/u CT torso --> could not perform [**2-14**] to poor access
   - getting nutrientional cs
   - f/u 3 pm hct: stable
   - Giving 4 L of fluid bolus and UOP still not elevated, about 2 L came
   out from ostomy.
   - UA: Uric Ax few, slight protein, no leuk/nitrite, trace ketones.
   - ULytes: (if high Na, worry about ATN): FeNa = 0.43, appears to be
   prerenal.
   Allergies:
   Latex
   Rash;
   Oxaliplatin
   see ccc note;
   Iodine; Iodine Containing
   Rash;
   Fluconazole
   angioedema;
   Ace Inhibitors
   Rash; contraind
   Last dose of Antibiotics:
   Vancomycin - [**2164-4-18**] 08:00 AM
   Piperacillin - [**2164-4-19**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-4-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2164-4-19**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-4-20**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 82 (81 - 101) bpm
   BP: 87/51(60) {82/41(50) - 104/60(80)} mmHg
   RR: 13 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  5,370 mL
                                                                  1,064 mL
   PO:
                                                                    990 mL
             TF:
   IVF:
                                                                  4,380 mL
                                                                  1,064 mL
   Blood products:
   Total out:
                                                                  2,945 mL
                                                                    566 mL
   Urine:
                                                                  1,345 mL
                                                                    166 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,425 mL
                                                                    498 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   352 K/uL
   8.8 g/dL
   102 mg/dL
   0.9 mg/dL
   22 mEq/L
   3.6 mEq/L
   15 mg/dL
   109 mEq/L
   139 mEq/L
   27.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2164-4-17**]  11:07 PM
                             [**2164-4-18**]  05:06 AM
                             [**2164-4-18**]  10:02 AM
                             [**2164-4-18**]  03:59 PM
                             [**2164-4-19**]  04:43 AM
                             [**2164-4-19**]  02:40 PM
                             [**2164-4-20**]  04:30 AM
   WBC
   8.5
   7.9
   5.5
   7.8
   Hct
   28.8
   27.5
   29.6
   29.9
   29.5
   27.9
   Plt
   [**Telephone/Fax (3) 12104**]52
   Cr
   0.6
   0.2
   0.7
   0.8
   0.9
   Glucose
   111
   91
   139
   142
   102
   Other labs: PT / PTT / INR:13.2/27.6/1.1, Differential-Neuts:77.2 %,
   Lymph:13.7 %, Mono:6.0 %, Eos:2.8 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
   67 year old female with metastatic colon cancer C33D8 5-FU/Leucovorin
   presenting with fever, hypotension and blood per enterocutaneous
   fistula.
   .
   # Hypotension: SBP to 80s in ED and on arrival to ICU after 2 units of
   NS. Pt is mentating well, strong peripheral pulses, voiding. DDx
   includes hypovolemia vs. sepsis. Hypovolemia is a possiblity given poor
   po intake (on TPN), ?blood loss from fistula site (less likely). Sepsis
   also possible - fever, elevated WBC in an immunocompromised host (see
   below). GNRs in blood from OSH
   - IVF for MAP goal >60
   - Levophed if needed to maintain above
   - Foley for close output monitoring
   - Broad spectrum abx for now Zosyn, will narrow therapy today based on
   sensitivities from OSH, D4 of 14 given indwelling lines for salvage
   - f/u bcx, ucx, sputum.  Speciation of blood cultures from rehab
   E.coli, fluoroquinolone and bactrim resistant
   - CT abd/pelvis when access appropriate, powerpick today
   - serial HCTs, transfuse for HCT < 21 or increased bleeding.
   .
   # Decreased UOP: FeNa < 1%, but still worry about ATN vs. obstruction
   from tumor burden
   - renal consult, evaluate urine for oliguric ATN
   - renal u/s to rule out obstruction
   - hold on IVF until further work-up completed
   .
   # Fever, leukocytosis: Potential sources include lines (PICC, port)
   though neither look infected, pulmonary (increased effusions on CXR),
   abdominal - fistula site vs. abscess vs. C. dif.
   - Broad spectrum abx for now with Zosyn, will tailor therapy based on
   sensitivities
   - f/u bcx, ucx, sputum.
   - CT abd/pelvis when access possible
   .
   # Bloody fistula drainage: Surgery consult tonight, serial hematocrits
   - q4hr. Ostomy/wound care consult for fistula site. NPO Hold heparin,
   pneumoboots.
   - Repeat Hct 12pm
   .
   # Metastatic colon cancer: now followed by Dr. [**Last Name (STitle) 1862**] (heme/onc) and
   Dr. [**Last Name (STitle) **]. Plan is for staging CT abd/pelvis tomorrow if she is able
   to gauge response to chemotherapy.
   -continue anti-diarrheals
   .
   # H/O PE/SVC syndrome/port-related clots: Fondaparinux on hold due to
   recent bleeding.
   .
   # Wound: ostomy consult. Continue topical therapies and local care.
   .
   # DM - Not on meds at home.
   - insulin s/s
   ICU Care
   Nutrition: clear liquid diet
   Glycemic Control:
   Lines:
   PICC Line - [**2164-4-17**] 08:49 PM
   Indwelling Port (PortaCath) - [**2164-4-17**] 08:50 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP:  not on ventilator
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: pending stable systolic blood pressure

2164-04-21 08:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2164-4-20**] 02:00 PM
 PICC LINE - START [**2164-4-20**] 02:30 PM
   power picc placed in L2
 ULTRASOUND - At [**2164-4-20**] 05:21 PM
   renal ultrasound
 BLOOD CULTURED - At [**2164-4-20**] 05:45 PM
   from power picc
 BLOOD CULTURED - At [**2164-4-20**] 05:56 PM
   from power picc
   - renal u/s -->Normal renal ultrasound without evidence of
   hydronephrosis as clinically
   questioned.
   - urine sediment --> looks like yeast infection, but nothing else
   - Ulytes: UreaN:1189 Creat:186 Na:111 K:57 Cl:103 Osmolal:893
   - Got Power PICC
   Allergies:
   Latex
   Rash;
   Oxaliplatin
   see ccc note;
   Iodine; Iodine Containing
   Rash;
   Fluconazole
   angioedema;
   Ace Inhibitors
   Rash; contraind
   Last dose of Antibiotics:
   Piperacillin - [**2164-4-19**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-4-20**] 07:50 AM
   Ceftriaxone - [**2164-4-20**] 11:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-4-20**] 11:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2164-4-21**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 91 (82 - 97) bpm
   BP: 95/53(63) {83/42(53) - 127/75(88)} mmHg
   RR: 17 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 70 kg
   Height: 62 Inch
                  Total In:
                                                                  1,920 mL
                  PO:
                                                                    700 mL
                  TF:
   IVF:
                                                                  1,220 mL
   Blood products:
   Total out:
                                                                    931 mL
                                                                    960 mL
   Urine:
                                                                    381 mL
                                                                    360 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                    989 mL
                                                                   -960 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   332 K/uL
   8.7 g/dL
   86 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   11 mg/dL
   109 mEq/L
   138 mEq/L
   28.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2164-4-17**]  11:07 PM
                             [**2164-4-18**]  05:06 AM
                             [**2164-4-18**]  10:02 AM
                             [**2164-4-18**]  03:59 PM
                             [**2164-4-19**]  04:43 AM
                             [**2164-4-19**]  02:40 PM
                             [**2164-4-20**]  04:30 AM
                             [**2164-4-20**]  05:21 PM
                             [**2164-4-21**]  04:23 AM
   WBC
   8.5
   7.9
   5.5
   7.8
   6.6
   Hct
   28.8
   27.5
   29.6
   29.9
   29.5
   27.9
   28.2
   Plt
   [**Telephone/Fax (3) 12104**]52
   332
   Cr
   0.6
   0.2
   0.7
   0.8
   0.9
   0.9
   0.8
   Glucose
   111
   91
   139
   142
   102
   89
   86
   Other labs: PT / PTT / INR:13.2/27.6/1.1, Differential-Neuts:77.2 %,
   Lymph:13.7 %, Mono:6.0 %, Eos:2.8 %, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   67 year old female with metastatic colon cancer C33D8 5-FU/Leucovorin
   presenting with fever, hypotension and blood per enterocutaneous
   fistula.
   .
   # Sepsis
 SBP to 80s in ED and on arrival to ICU after 2 units of NS.
   Pt is mentating well, strong peripheral pulses. DDx includes
   hypovolemia vs. sepsis. Hypovolemia is a possiblity given poor po
   intake (on TPN), ?blood loss from fistula site (felt to be less
   likely). Sepsis also possible - fever, elevated WBC in an
   immunocompromised host (see below).  BCx grew out Zosyn, CTX-sensitive
   (FQ, Bactrim resistant) E.coli.
   - IVF for MAP goal > 60
   - Foley for close output monitoring
   - CTX D5/14 (was on Zosyn for 4 days)
   - serial HCTs, transfuse for HCT < 21 or increased bleeding.
   .
   # Decreased UOP: FeNa < 1%, but still worry about ATN vs. obstruction
   from tumor burden.  Patient still oliguric but serum Cr remains stable.
   - renal U/S unremarkable
   - f/u renal recs
   .
   # Bloody fistula drainage
 Hct stable. Bleeding has dropped off.
   .
   # Metastatic colon cancer: now followed by Dr. [**Last Name (STitle) 1862**] (heme/onc) and
   Dr. [**Last Name (STitle) **].  Now that power PICC in place, plan for CT torso (with
   desensitization protocol).
   - start desens protocol with plan for CT torso tomorrow
   - continue anti-diarrheals
   .
   # H/O PE/SVC syndrome/port-related clots: Fondaparinaux on hold due to
   recent bleeding.
   .
   # Wound: ostomy consult. Continue topical therapies and local care.
   .
   # Nutrition: Restart TPN, nutrition c/s
   # DM - Not on meds at home.
   - SSI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2164-4-17**] 08:50 PM
   PICC Line - [**2164-4-20**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2164-04-21 11:20:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   BP improved, now off vasopressor.
   Cutaneous fistula continues with
   Urine output improving.
   Allergies:
   Latex
   Rash;
   Oxaliplatin
   see ccc note;
   Iodine; Iodine Containing
   Rash;
   Fluconazole
   angioedema;
   Ace Inhibitors
   Rash; contraind
   Last dose of Antibiotics:
   Piperacillin - [**2164-4-19**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2164-4-20**] 07:50 AM
   Ceftriaxone - [**2164-4-20**] 11:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2164-4-20**] 11:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2164-4-21**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 89 (85 - 97) bpm
   BP: 112/59(70) {83/42(53) - 127/78(89)} mmHg
   RR: 17 (10 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73 kg (admission): 70 kg
   Height: 62 Inch
                  Total In:
                                                                  1,920 mL
                                                                    240 mL
   PO:
                                                                    700 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,220 mL
   Blood products:
   Total out:
                                                                    931 mL
                                                                  1,070 mL
   Urine:
                                                                    381 mL
                                                                    470 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                    989 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, extensive dramatic fungating fistula involving
   significant portion of abd wall, including bowel and tumor
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   332 K/uL
   86 mg/dL
   0.8 mg/dL
   23 mEq/L
   3.8 mEq/L
   11 mg/dL
   109 mEq/L
   138 mEq/L
   28.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2164-4-17**]  11:07 PM
                             [**2164-4-18**]  05:06 AM
                             [**2164-4-18**]  10:02 AM
                             [**2164-4-18**]  03:59 PM
                             [**2164-4-19**]  04:43 AM
                             [**2164-4-19**]  02:40 PM
                             [**2164-4-20**]  04:30 AM
                             [**2164-4-20**]  05:21 PM
                             [**2164-4-21**]  04:23 AM
   WBC
   8.5
   7.9
   5.5
   7.8
   6.6
   Hct
   28.8
   27.5
   29.6
   29.9
   29.5
   27.9
   28.2
   Plt
   [**Telephone/Fax (3) 12104**]52
   332
   Cr
   0.6
   0.2
   0.7
   0.8
   0.9
   0.9
   0.8
   Glucose
   111
   91
   139
   142
   102
   89
   86
   Other labs: PT / PTT / INR:13.2/27.6/1.1, Differential-Neuts:77.2 %,
   Lymph:13.7 %, Mono:6.0 %, Eos:2.8 %, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.4 mg/dL
   Assessment and Plan
   67 year old female with metastatic colon cancer C33D8 5-FU/Leucovorin
   presenting with fever, hypotension and blood per enterocutaneous
   fistula.
   HYPOTENSION -- Hypotension: SBP to 80s in ED and on arrival to ICU
   after 2 units of NS. Pt is mentating well, strong peripheral pulses,
   voiding. DDx includes hypovolemia vs. sepsis. Hypovolemia is a
   possiblity given poor po intake (on TPN), ?blood loss from fistula site
   (less likely). Sepsis also possible - fever, elevated WBC in an
   immunocompromised host (see below). GNRs in blood from OSH
   - IVF for MAP goal >60
   - Levophed if needed to maintain above
   - Foley for close output monitoring
   - Broad spectrum abx for now Zosyn, will narrow therapy today based on
   sensitivities from OSH, D4 of 14 given indwelling lines for salvage
   - f/u bcx, ucx, sputum.  Speciation of blood cultures from rehab
   E.coli, fluoroquinolone and bactrim resistant
   - CT abd/pelvis when access appropriate, powerpick today
   - serial HCTs, transfuse for HCT < 21 or increased bleeding.
   E.Coli BACTEREMIA -- cultures from [**Hospital1 632**].
   # Decreased UOP: FeNa < 1%, but still worry about ATN vs. obstruction
   from tumor burden
   - renal consult, evaluate urine for oliguric ATN
   - renal u/s to rule out obstruction
   - hold on IVF until further work-up completed
   Doubt colovesicular fistula.
   .
   # Fever, leukocytosis: Potential sources include lines (PICC, port)
   though neither look infected, pulmonary (increased effusions on CXR),
   abdominal - fistula site vs. abscess vs. C. dif.
   - Broad spectrum abx for now with Zosyn, will tailor therapy based on
   sensitivities
   - f/u bcx, ucx, sputum.
   - CT abd/pelvis when access possible
   .
   # Bloody fistula drainage: Surgery consult tonight, serial hematocrits
   - q4hr. Ostomy/wound care consult for fistula site. NPO Hold heparin,
   pneumoboots.
   - Repeat Hct 12pm
   .
   # Metastatic colon cancer: now followed by Dr. [**Last Name (STitle) 1862**] (heme/onc) and
   Dr. [**Last Name (STitle) **]. Plan is for staging CT abd/pelvis tomorrow if she is able
   to gauge response to chemotherapy.
   -continue anti-diarrheals
   .
   # H/O PE/SVC syndrome/port-related clots: Fondaparinux on hold due to
   recent bleeding.
   .
   # Wound: ostomy consult. Continue topical therapies and local care.
   .
   # DM - Not on meds at home.
   - insulin s/s
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2164-4-17**] 08:50 PM
   PICC Line - [**2164-4-20**] 02:30 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill